US07329680B2
0.503 g (2.1 mmole) of 2-benzyl-4,6-dichloro-pyrimidine was dissolved in 10 mls of DMF. To this solution was added 0.340 g of 3-amino-propionic acid methyl ester HCl. Next 0.6 mls of triethyl amine 94.3 mmoles) was added dropwise and the reaction stirred at room temperature for 12 hours. The reaction was diluted with 10 mls of H2O and extracted with two portions of EtOAc. The combined organic layers were washed with two portions of saturated NaCl solution, dried over MgSO4, filter and evaporated under reduced pressure to yield a crude oil. This material was chromatographed on silica gel with 10% Ethyl Acetate-90% Heptane as the eluent. 3-(2-benzyl-6-chloro-pyrimidin-4-ylamino)-propionic acid methyl ester (0.531 g, 79%) was isolated a clear oil.

reactant | 2-benzyl-4,6-dichloro-pyrimidine | 2.1 mmole, 0.503 g | C(C1=CC=CC=C1)C1=NC(=CC(=N1)Cl)Cl | C11H8Cl2N2
reactant | 3-amino-propionic acid methyl ester HCl | 0.340 g | Cl.COC(CCN)=O
reactant | triethyl amine | 94.3 mmoles, 0.6 mls | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mls | CN(C)C=O | C3H7NO
solvent | H2O | 10 mls | O | H2O
product | 3-(2-benzyl-6-chloro-pyrimidin-4-ylamino)-propionic acid methyl ester | 0.531 g, 79% | COC(CCNC1=NC(=NC(=C1)Cl)CC1=CC=CC=C1)=O | C15H16ClN3O2
